US03998818
When the t-butyl ester of 7-ADCA is acylated with trifluoroethylsulfonylacetic acid by the procedure of Example 8, 7-trifluoroethylsulfonylacetamido-3-methyl-3-cephem-4-carboxylic acid is obtained.

reactant | 7-ADCA | CC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C8H10N2O3S
reactant | trifluoroethylsulfonylacetic acid | FC(CS(=O)(=O)CC(=O)O)(F)F | C4H5F3O4S
product | 7-trifluoroethylsulfonylacetamido-3-methyl-3-cephem-4-carboxylic acid | FC(CS(=O)(=O)CC(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O)(F)F | C12H13F3N2O6S2
